US07790898B2
(4-fluorophenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-methanone
The compound of Example 3 was prepared according to the general preparation protocol A from 4-fluorobenzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | (4-fluorophenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-methanone | FC1=CC=C(C=C1)C(=O)N1CC(CCC1)(C1=CC(=CC=C1)OC)O | C19H20FNO3
